US07790770B2
A round bottom flask was charged with (3-(tert-butyldimethylsilyloxy)-4-fluorophenyl)(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)methanone (2.09 g, 4.50 mmol), (R)-2-methylpropane-2-sulfinamide (653 mg, 5.4 mmol), Ti(OEt)4 (1.54 g, 6.76 mmol) and anhydrous THF (40 mL). The resulting solution was heated at 75° C. under argon for 14 h. The solvents were removed and the residue was diluted with ether (50 mL) and sat. NaCl (20 mL). The resulting mixture was filtered through a glass frit and the filtrate transferred to a separatory funnel. The organic portion was separated and the aqueous extracted with ether (2×20 mL). The combined organic portions were dried over Na2SO4, filtered and concentrated. The residue was dissolved in hexane:EtOAc and purified by ISCO chromatography (2×120 g column) using hexanes/EtOAc (0-100% over 30 min) to yield (R)—N-((3-(tert-butyldimethylsilyloxy)-4-fluorophenyl)(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)methylene)-2-methylpropane-2-sulfinamide at a retention time of 14 min (2.05 g, 80% yield) LCMS: RT=2.37 min [M+H] 568.24 (Phenomenex Luna C18 column, 4.6×30 mm eluting with 10-90% MeOH/H2O over 2 minutes containing 0.1% TFA; 5 mL/min, monitoring at 220 nm). NMR: 400 MHz (CDCl3) 7.36 ppm, 1H, m; 7.11 ppm, 5H, m; 5.90 ppm, 1H, t, J=52.73 Hz; 0.97 ppm, 9H, s; 0.18 ppm, 6H, s.

reactant | (3-(tert-butyldimethylsilyloxy)-4-fluorophenyl)(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)methanone | 4.50 mmol, 2.09 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1F)C(=O)C1=CC(=CC(=C1)OC(C(F)F)(F)F)F | C21H22F6O3Si
reactant | (R)-2-methylpropane-2-sulfinamide | 5.4 mmol, 653 mg | CC(C)(C)[S@@](=O)N | C4H11NOS
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (R)—N-((3-(tert-butyldimethylsilyloxy)-4-fluorophenyl)(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)methylene)-2-methylpropane-2-sulfinamide | 80% yield | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1F)C(=N[S@](=O)C(C)(C)C)C1=CC(=CC(=C1)OC(C(F)F)(F)F)F | C25H31F6NO3SSi
